US09120749B2
2,6-dichloro-4-(4-((4-((dimethylamino)methyl)phenyl)amino)-3-(methylsulfonyl)quinolin-6-yl)phenol
Following general procedure D, 6-bromo-N-(4-((dimethylamino)methyl)phenyl)-3-(methylsulfonyl)quinolin-4-amine (43 mg, 0.10 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (53 mg, 0.183 mmol) to afford the desired product (31.7 mg, 61%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 9.00 (s, 1H), 8.06-7.97 (m, 2H), 7.74 (s, 3H), 7.46-7.38 (m, 2H), 7.21 (d, J=8.0 Hz, 2H), 7.13 (s, 2H), 3.86 (s, 2H), 3.27 (s, 3H), 2.45 (s, 6H). ESI MS m/z 516 [C25H23Cl2N3O2S+H]+; HPLC 94.5% (AUC), tR=11.57 min.

reactant | 6-bromo-N-(4-((dimethylamino)methyl)phenyl)-3-(methylsulfonyl)quinolin-4-amine | 0.10 mmol, 43 mg | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)NC1=CC=C(C=C1)CN(C)C | C19H20BrN3O2S
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.183 mmol, 53 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | 2,6-dichloro-4-(4-((4-((dimethylamino)methyl)phenyl)amino)-3-(methylsulfonyl)quinolin-6-yl)phenol | 31.7 mg, 61% | ClC1=C(C(=CC(=C1)C=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)NC1=CC=C(C=C1)CN(C)C)Cl)O | C25H23Cl2N3O3S
